US05708008
5-(2-methylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 10 mg (0.0437 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 6.0 μL (0.0458 mMol) 2-methylbenzoyl chloride, 14.3 mg (95%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.0437 mMol, 10 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 2-methylbenzoyl chloride | 0.0458 mMol, 6.0 μL | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
product | 5-(2-methylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 14.3 mg, 95% | CC1=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=CC=C1 | C22H25N3O
